US08471005B2
(4-Methyl-piperazin-1-yl)-(4-nitro-phenyl)-methanone (2.12 g, 8.51 mmol) was dissolved in Methanol (35 mL, 860 mmol) and the solution was carefully added to a Parr vessel containing 10% Palladium on Carbon (0.650 g, 48.7 mmol) under nitrogen. The mixture was then placed on a Parr hydrogenation apparatus and was allowed to shake at 55 psi until uptake of hydrogen ceased. The catalyst was then filtered to afford 1.86 g of (4-Amino-phenyl)-(4-methyl-piperazin-1-yl)-methanone without further purification. (M+H)=220.6. 1H NMR (400 MHz, DMSO, d6) δ 7.09 (d, 2H, J=8.41 Hz), 6.53 (d, 2H J=8.41 Hz), 5.48 (s, 2H), 3.46 (m, 4H), 2.28 (m, 4H), 2.17 (s, 3H).

reactant | (4-Methyl-piperazin-1-yl)-(4-nitro-phenyl)-methanone | 8.51 mmol, 2.12 g | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15N3O3
reactant | Methanol | 860 mmol, 35 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on Carbon | 48.7 mmol, 0.650 g | [Pd] | Pd
product | (4-Amino-phenyl)-(4-methyl-piperazin-1-yl)-methanone | 1.86 g | NC1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C12H17N3O
